US08791161B2
N-{5-chloro-2-[(4-nitrobenzyl)thio]phenyl}-1-benzofuran-2-sulfonamide
Following General Procedure B, the title compound (475 mg, 72%) was prepared from 5-chloro-2-((4-nitrobenzyl)thio)aniline (411 mg, 1.40 mmol) and benzofuran-2-sulfonyl chloride (303 mg, 1.40 mmol) in pyridine (5 ml).

reactant | 5-chloro-2-((4-nitrobenzyl)thio)aniline | 1.40 mmol, 411 mg | ClC=1C=CC(=C(N)C1)SCC1=CC=C(C=C1)[N+](=O)[O-] | C13H11ClN2O2S
reactant | benzofuran-2-sulfonyl chloride | 1.40 mmol, 303 mg | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-{5-chloro-2-[(4-nitrobenzyl)thio]phenyl}-1-benzofuran-2-sulfonamide | 475 mg, 72% | ClC=1C=CC(=C(C1)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2)SCC2=CC=C(C=C2)[N+](=O)[O-] | C21H15ClN2O5S2
